### PR TITLE
[Merged by Bors] - feat(Topology/Subbasis): prove Alexander Subbasis Theorem

### PR DESCRIPTION
**Pull request by FMLJohn**
Prove the Alexander Subbasis Theorem: if `X` has a topology `T` and `T = generateFrom S`, then `X` is compact if any open cover of `X` with elements in `S` has a finite subcover.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Subbasis.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+compact if any open cover of `X` with elements in `S` has a finite subcover.
+-/
+theorem alexander_subbasis (hTS : T = generateFrom S) :
+    (∀ P ⊆ S, ⋃₀ P = ⊤ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = ⊤) → CompactSpace X := by
+  intro h
+  rw [← isCompact_univ_iff, isCompact_iff_ultrafilter_le_nhds']
+  intro F _
+  by_contra hF
+  simp only [Set.mem_univ, true_and, not_exists] at hF
+  have hSF (x : X) := Filter.exists_mem_not_mem_of_not_le_nhds_of_subbasis hTS (hF x)
```
Comment (erdOne) [inline Mathlib/Topology/Subbasis.lean:59]:
```suggestion
  subst hTS
  have hSF : ∀ (x : X), ∃ s, x ∈ s ∧ s ∈ S ∧ s ∉ F := by simpa [nhds_generateFrom] using hF
```
The other lemmas are not needed here.

File: Mathlib/Topology/Subbasis.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+    exact h2 <| (Filter.sInter_mem hU).2 this
+  obtain ⟨s, hsU, hsF⟩ := h3
+  exact ⟨s, hUS hsU, hxU s hsU, hsF⟩
+
+/--
+The Alexander Subbasis Theorem. If `X` is a topological space with a subbasis `S`, then `X` is
+compact if any open cover of `X` with elements in `S` has a finite subcover.
+-/
+theorem alexander_subbasis (hTS : T = generateFrom S) :
+    (∀ P ⊆ S, ⋃₀ P = ⊤ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = ⊤) → CompactSpace X := by
```
Comment (erdOne) [inline Mathlib/Topology/Subbasis.lean:53]:
```suggestion
    (∀ P ⊆ S, ⋃₀ P = .univ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = .univ) → CompactSpace X := by
```
The spelling for set is `Set.univ` instead of top.

File: Mathlib/Topology/Subbasis.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+    ext x
+    simp only [Set.top_eq_univ, Set.mem_univ, iff_true]
+    exact ⟨(hSF x).choose, Set.mem_range_self x, (hSF x).choose_spec.2.1⟩
+  obtain ⟨Q, hQP, hQ1, hQ2⟩ := h P hPS hP
+  have hQF : ⋂₀ (compl '' Q) ∈ F.sets := by
+    refine (Filter.sInter_mem (Set.Finite.image compl hQ1)).2 ?_
+    · intro s hsQ
+      obtain ⟨r, ⟨x, hxr⟩, hrs⟩ := Set.image_mono hQP hsQ
+      rw [← hrs, ← hxr]
+      exact Ultrafilter.compl_mem_iff_not_mem.2 (hSF x).choose_spec.2.2
```
Comment (erdOne) [inline Mathlib/Topology/Subbasis.lean:48]:
```suggestion
    have : ∀ a ∈ Q, a ∉ F := fun a haQ ↦ (hQP haQ).choose_spec ▸ hsF _
    simpa [Filter.biInter_mem hQ1, F.compl_mem_iff_not_mem]
```

File: Mathlib/Topology/Subbasis.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+  rw [(Set.compl_sUnion Q).symm.trans (Set.compl_empty_iff.mpr hQ2)] at hQF
+  exact Filter.empty_not_mem F.1 hQF
```
Comment (erdOne) [inline Mathlib/Topology/Subbasis.lean:50]:
```suggestion
  simp [-Set.sInter_image, ← Set.compl_sUnion, hQ2] at hQF
```

File: Mathlib/Topology/Subbasis.lean [hunk 5]
```diff
@@ -0,0 +1,40 @@
...
+open TopologicalSpace
+
+variable {X : Type*} [T : TopologicalSpace X] {S : Set (Set X)}
+
+/--
+The Alexander Subbasis Theorem. If `X` is a topological space with a subbasis `S`, then `X` is
+compact if any open cover of `X` with elements in `S` has a finite subcover.
+-/
+theorem alexander_subbasis (hTS : T = generateFrom S) :
+    (∀ P ⊆ S, ⋃₀ P = .univ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = .univ) → CompactSpace X := by
```
Comment (erdOne) [inline Mathlib/Topology/Subbasis.lean:28]:
```suggestion
theorem alexander_subbasis (hTS : T = generateFrom S)
    (h : ∀ P ⊆ S, ⋃₀ P = .univ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = .univ) : CompactSpace X := by
```
And we might want a different name such as `compactSpace_generateFrom`.
Another thing you could do is drop the topology and do
```suggestion
theorem alexander_subbasis
    (h : ∀ P ⊆ S, ⋃₀ P = .univ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = .univ) : @CompactSpace X (generateFrom S) := by
```

File: Mathlib/Topology/Subbasis.lean [hunk 6]
```diff
@@ -0,0 +1,40 @@
+/-
+Copyright (c) 2025 Fangming Li. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Fangming Li
+-/
+import Mathlib.Topology.Compactness.Compact
```
Comment (erdOne) [inline Mathlib/Topology/Subbasis.lean:6]: Should this result go directly in that file then?

File: Mathlib/Topology/Compactness/Compact.lean [hunk 7]
```diff
@@ -693,6 +693,25 @@ theorem compactSpace_of_finite_subfamily_closed
     CompactSpace X where
   isCompact_univ := isCompact_of_finite_subfamily_closed fun t => by simpa using h t
 
+omit [TopologicalSpace X] in
+/--
+The Alexander Subbasis Theorem. If `X` is a topological space with a subbasis `S`, then `X` is
```
Comment (erdOne) [inline Mathlib/Topology/Compactness/Compact.lean:698]:
```suggestion
The **Alexander Subbasis Theorem**. If `X` is a topological space with a subbasis `S`, then `X` is
```

File: Mathlib/Topology/Compactness/Compact.lean [hunk 8]
```diff
@@ -693,6 +693,25 @@ theorem compactSpace_of_finite_subfamily_closed
...
+compact if any open cover of `X` with elements in `S` has a finite subcover.
+-/
+theorem compactSpace.generateFrom {S : Set (Set X)}
+    (h : ∀ P ⊆ S, ⋃₀ P = .univ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = .univ) :
```
Comment (erdOne) [inline Mathlib/Topology/Compactness/Compact.lean:702]:
```suggestion
    (h : ∀ P ⊆ S, ⋃₀ P = univ → ∃ Q ⊆ P, Q.Finite ∧ ⋃₀ Q = univ) :
```
Now that `Set` is open

**Review by erdOne — APPROVED** [review]
LGTM
Maybe someone who actually knows what filters are (e.g. @YaelDillies) should take a look though. Or I will maintainer merge tomorrow.

**Review by alreadydone — COMMENTED** [review]
Is it harder to prove the `IsCompact` version?

**Comment by erdOne** [comment]
Good point. I'm guessing the proof will more or less be the same though?

**Comment by FMLJohn** [comment]
> Good point. I'm guessing the proof will more or less be the same though?

But there is one step for which I still don't know how to deal with `IsCompact`. In order to get a contradiction, we showed that `⋂₀ (compl '' Q)` is empty but belongs to the ultrafilter `F`. If we shift to `IsCompact`, then the senario will be: `Q` covers some set `s`, but `⋂₀ (compl '' Q)` may not be empty.

**Comment by FMLJohn** [comment]
> Good point. I'm guessing the proof will more or less be the same though?

Or will it be a good idea if I use the `CompactSpace` version to show the `IsCompact` version? I guess this will be much simpler than starting from `IsCompact`.

**Comment by erdOne** [comment]
something like
```
example (t : Set X) (h : ∀ P ⊆ S, t ⊆ ⋃₀ P → ∃ Q ⊆ P, Q.Finite ∧ t ⊆ ⋃₀ Q) :
    @IsCompact X (generateFrom S) t := by
  rw [@isCompact_iff_ultrafilter_le_nhds']
  intro F hF'
  by_contra hF
  have hSF : ∀ x ∈ t, ∃ s, x ∈ s ∧ s ∈ S ∧ s ∉ F := by simpa [nhds_generateFrom] using hF
  choose! s hxs hsS hsF using hSF
  obtain ⟨Q, hQP, hQ1, hQ2⟩ := h (s '' t) (by simpa [Set.subset_def])
    (fun x hx ↦ Set.mem_sUnion_of_mem (hxs _ hx) (by aesop)) 
  have : ∀ a ∈ Q, a ∉ F := fun a haQ ↦ (hQP haQ).choose_spec.2 ▸ hsF _ (hQP haQ).choose_spec.1
  have hQF : ⋂₀ (compl '' Q) ∈ F.sets := by simpa [Filter.biInter_mem hQ1, F.compl_mem_iff_not_mem]
  have : ⋃₀ Q ∉ F := by simpa [-Set.sInter_image, ← Set.compl_sUnion, hQ2, F.compl_mem_iff_not_mem] using hQF
  exact this (F.mem_of_superset hF' hQ2)
```

**Comment by FMLJohn** [comment]
> something like
> 
> ```lean
> example (t : Set X) (h : ∀ P ⊆ S, t ⊆ ⋃₀ P → ∃ Q ⊆ P, Q.Finite ∧ t ⊆ ⋃₀ Q) :
>     @IsCompact X (generateFrom S) t := by
>   rw [@isCompact_iff_ultrafilter_le_nhds']
>   intro F hF'
>   by_contra hF
>   have hSF : ∀ x ∈ t, ∃ s, x ∈ s ∧ s ∈ S ∧ s ∉ F := by simpa [nhds_generateFrom] using hF
>   choose! s hxs hsS hsF using hSF
>   obtain ⟨Q, hQP, hQ1, hQ2⟩ := h (s '' t) (by simpa [Set.subset_def])
>     (fun x hx ↦ Set.mem_sUnion_of_mem (hxs _ hx) (by aesop)) 
>   have : ∀ a ∈ Q, a ∉ F := fun a haQ ↦ (hQP haQ).choose_spec.2 ▸ hsF _ (hQP haQ).choose_spec.1
>   have : ⋃₀ Q ∉ F := by simpa [Set.sUnion_eq_biUnion, Ultrafilter.finite_biUnion_mem_iff hQ1]
>   exact this (F.mem_of_superset hF' hQ2)
> ```

Shall I replace my original theorem with this one? Or shall I keep both?

**Comment by erdOne** [comment]
I think it is useful to have both. But you can use this to prove the old version easily I think.

File: Mathlib/Topology/Compactness/Compact.lean [hunk 9]
```diff
@@ -501,6 +505,28 @@ theorem exists_subset_nhds_of_isCompact' [Nonempty ι] {V : ι → Set X}
...
 
+omit [TopologicalSpace X] in
+/--
+**Alexander's subbasis theorem**. Suppose `X` is a topological space with a subbasis `S` and `s` is
+a subset of `X`. Then `s` is compact if for any open cover of `s` with all elements taken from `S`,
+there is a finite subcover.
+-/
+theorem isCompact_generateFrom {S : Set (Set X)} (s : Set X)
+    (h : ∀ P ⊆ S, s ⊆ ⋃₀ P → ∃ Q ⊆ P, Q.Finite ∧ s ⊆ ⋃₀ Q) :
+    @IsCompact X (generateFrom S) s := by
```
Comment (jcommelin) [inline Mathlib/Topology/Compactness/Compact.lean:516]: I think this should be a theorem about arbitrary topologies with a subbasis, instead of only topologies that are defeq to `generateFrom S`.

Comment (alreadydone) [reply Mathlib/Topology/Compactness/Compact.lean:516]: Since there are [many theorems](https://loogle.lean-lang.org/?q=%7C-+_+%3D+TopologicalSpace.generateFrom+_) in mathlib with `_ = generateFrom _` as conclusion, this is probably a good idea. There are also [6 theorems](https://loogle.lean-lang.org/?q=_+%3D+TopologicalSpace.generateFrom+_+%E2%86%92+_) that uses it as an assumption.

Comment (YaelDillies) [reply Mathlib/Topology/Compactness/Compact.lean:516]: Should there be a predicate `IsSubbasis s := ‹_› = generateFrom s`?

Comment (jcommelin) [reply Mathlib/Topology/Compactness/Compact.lean:516]: Sounds good to me. But as a follow-up PR. This one can just take the raw assumption and add a TODO to use `IsSubbasis` later.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by b-mehta — APPROVED** [review]
Very nice work, thanks!

bors merge
